US04476311
57.5 g (0.327 mole) of phenylsuccinic anhydride and 39 g (0.327 mole) of Schiff base, prepared from benzyldehyde and methylamine according to the general procedure, are refluxed at 140° in 400 ml of xylene for 12 hr. After cooling to 0 C. the solid is collected and washed with xylene and ether: 83.2 g (86% yield) of 2,3-diphenyl-1-methyl-pyrrolidin-5-one-3 carboxylic acid mp 247°-52° (diastereomeric mixture), less polar minor isomer mp 290°-3°, more polar major isomer mp 295°-61° C. 14.7 g of the above acid (0.03 mole) are dissolved in 300 ml of THF and treated at 5°-10° with diborane, generated from 15 g of NaBH4 in 350 ml of diglyme and 101 ml of BF3 -etherate in 200 ml of diglyme. After completion of the reaction 250 ml of 6N HCl are added at first very slowly. After the addition of 300 ml of water the THF is removed in vacuo. The water solution is adjusted to pH 8-9 with 6N NaOH. After cooling to 0 the crystals are collected and dried: 9.7 g (74%) of title compound, mp 99°-102° (diastereomeric mixture).

reactant | phenylsuccinic anhydride | 0.327 mole, 57.5 g | C1(=CC=CC=C1)C1C(=O)OC(C1)=O | C10H8O3
reactant | methylamine | CN | CH5N
reactant | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3-diphenyl-1-methyl-pyrrolidin-5-one-3 carboxylic acid | 83.2 g, 86% yield | C1(=CC=CC=C1)C1N(C(CC1(C(=O)O)C1=CC=CC=C1)=O)C | C18H17NO3
